data/mechanism_extracts/ChinChemLett/10.1016_j.cclet.2019.04.023.json
{"doi": "10.1016_j.cclet.2019.04.023", "journal": "ChinChemLett", "is_review": false, "rxn_class_summary": "Electrochemical vicinal oxysulfonylation of olefins with sulfinic acids and O-nucleophiles (water, alcohols, or carboxylic acids) to give β-hydroxy/alkoxy/acyloxy sulfones and β-sulfonyl lactones", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of sulfinic acid (PhSO2H) to sulfonyl radical; subsequent anodic oxidation of the benzylic radical intermediate to a benzylic cation; cathode reduces protons to H2", "key_intermediates": [{"name": "sulfonyl radical (PhSO2•)", "smiles": "[O]S(=O)c1ccccc1", "role": "reactive"}, {"name": "benzylic carbon radical from sulfonyl addition to styrene", "smiles": null, "role": "reactive"}, {"name": "benzylic carbocation after second anodic oxidation", "smiles": null, "role": "reactive"}], "electron_flow": "Anode first oxidizes sulfinic acid to a sulfonyl radical (I), which adds to the styrene to give a benzylic radical (II); a second anodic SET converts II to a benzylic cation (III), which is trapped by an O-nucleophile (H2O, ROH, or RCO2H) to deliver the β-oxysulfone, while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["isolation_of_intermediate", "other"], "evidence_strength": "weak", "notes": "Mechanism proposed based on relative redox potentials (styrene higher than sulfinic acid) rather than radical-trap or DFT experiments. X-ray structure (CCDC 1893818) of product 3b confirms regiochemistry. Intramolecular variant with tethered alcohol/carboxylic acid gives cyclic ethers and lactones, consistent with cation trapping by internal nucleophile."}
